US06353017B1
To a solution of N-(t-butoxycarbonyl)-L-glutamic acid t-butyl ester (6.0 g, 19.78 mmol) and triethylamine (2.83 mL, 20.27 mmol) in THF at −10° C. is added ethyl chloroformate (1.94 mL, 20.27 mmol) dropwise, via syringe, and the solution is stirred at −10° C. for 30 minutes. The solution is filtered to remove precipitate, and the filtrate is added into a solution of NaBH4 (2.3 g, 60.86 mmol) in THF (40 mL) and water (50 mL). This solution is then stirred for 4 hours, after which time the solution is acidified with 1 N HCl to pH=5, and THF is evaporated. The aqueous residue is extracted with EtOAc (3×200 mL), and the organic layers is then washed with 1 N NaOH (2×300 mL), water (300 mL) and brine (300 mL), dried over MgSO4, and evaporated. Chromatography (silica, 20% EtOAc/hexane) yields t-butyl (S)-5-hydroxy-2-(t-butoxycarbonylamino)-pentanoate as a thick oil.

reactant | N-(t-butoxycarbonyl)-L-glutamic acid t-butyl ester | 19.78 mmol, 6.0 g | C(C)(C)(C)OC([C@@H](NC(=O)OC(C)(C)C)CCC(=O)O)=O | C14H25NO6
reactant | triethylamine | 20.27 mmol, 2.83 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 20.27 mmol, 1.94 mL | ClC(=O)OCC | C3H5ClO2
reactant | NaBH4 | 60.86 mmol, 2.3 g | [BH4-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | t-butyl (S)-5-hydroxy-2-(t-butoxycarbonylamino)-pentanoate | OCCC[C@@H](C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C14H27NO5
